US08258144B2
A mixture of 2,4-Dichloro-7H-pyrrolo[2,3-d]pyrimidine (0.1 g, 0.53 mmol) in Ammonia (7 N in MeOH, 1 mL) was heated at 100° C. for 24 h, then it was diluted with EtOAc, washed with Sat. NaHCO3, brine, dried and concentrated to give 2-chloro-7H-pyrrolo[2,3-d]pyrimidine-4-amine (0.06 g).

reactant | 2,4-Dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.53 mmol, 0.1 g | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
reactant | Ammonia | 7 N, 1 mL | N | H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-7H-pyrrolo[2,3-d]pyrimidine-4-amine | 0.06 g | ClC=1N=C(C2=C(N1)NC=C2)N | C6H5ClN4
